* cell_6t nominal characterization
.include /workspace/support/models.spice
.include dut.spice
.temp 27
Vdd vdd 0 1
Xdut BL BR WL vdd gnd cell_6t
.model sw SW(Ron=10 Roff=1e12 Vt=.5 Vh=0)
Cbl bl 0 10f
Cbr br 0 10f
Vdata data 0 PWL(0 0 4n 0 4.01n 1)
Bbar bar 0 v=1-v(data)
Vwrite wr 0 PWL(0 1 500p 1 510p 0 4n 0 4.01n 1 4.5n 1 4.51n 0)
Swl bl data wr 0 sw
Swr br bar wr 0 sw
Vpre pre 0 PWL(0 0 600p 0 610p 1 990p 1 1n 0 1.5n 0 1.51n 1 1.99n 1 2n 0 4.6n 0 4.61n 1 4.99n 1 5n 0 5.5n 0 5.51n 1 5.99n 1 6n 0)
Spl bl vdd pre 0 sw
Spr br vdd pre 0 sw
Vwl wl 0 PWL(0 1 490p 1 500p 0 1n 0 1.01n 1 1.3n 1 1.31n 0 2n 0 2.01n 1 2.3n 1 2.31n 0 4n 0 4.02n 1 4.49n 1 4.5n 0 5n 0 5.01n 1 5.3n 1 5.31n 0 6n 0 6.01n 1 6.3n 1 6.31n 0)
.tran 1p 7n
.meas tran read0 find par('v(br)-v(bl)') at=1110p
.meas tran repeat0 find par('v(br)-v(bl)') at=2110p
.meas tran read1 find par('v(bl)-v(br)') at=5110p
.meas tran repeat1 find par('v(bl)-v(br)') at=6110p
.meas tran supply avg par('-v(vdd)*i(Vdd)') from=0 to=7n

.control
run
write waveform.raw v(bl) v(br) v(wl) v(vdd) i(Vdd)
quit
.endc
.end
